US07429605B2
2-[3-Methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-5-(4-trifluoromethyl-phenyl)-pyridine
8.0 mg (0.31 mmol) of 95% sodium hydride were added at 0° C. to a solution of 65 mg (0.28 mmol) 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenol in 3.0 ml N,N-dimethylformamide and stirred for 30 min. at 0° C. 76 mg (0.28 mmol) 2-chloromethyl-5-(4-trifluoromethyl-phenyl)-pyridine were given to the reaction mixture and stirring continued at r.t overnight. After addition of 6 ml water the mixture was stirred for 1 h, the formed precipitate isolated by filtration, washed with water, methanol/water 1:1. The residue was purified by chromatography on silica (eluent: ethyl acetate) to give 91 mg (70%) of the title compound as white powder.

reactant | sodium hydride | 0.31 mmol, 8.0 mg | [H-].[Na+]
reactant | 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenol | 0.28 mmol, 65 mg | CC=1C=C(C=CC1CCCCN1N=NC=C1)O | C13H17N3O
reactant | 2-chloromethyl-5-(4-trifluoromethyl-phenyl)-pyridine | 0.28 mmol, 76 mg | ClCC1=NC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C13H9ClF3N
reactant | water | 6 ml | O | H2O
solvent | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
product | 2-[3-Methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-5-(4-trifluoromethyl-phenyl)-pyridine | 91 mg, 70% | CC=1C=C(OCC2=NC=C(C=C2)C2=CC=C(C=C2)C(F)(F)F)C=CC1CCCCN1N=NC=C1 | C26H25F3N4O
